US08357711B2
4-Chloro-N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine
2,4 Dimethoxybenzaldehyde (5 g, 30 mmol, 1 eq), 2-amino-5-chlorothiazole hydrochloride (5.15 g, 30 mmol, 1 eq), Et3N (3.04 g, 30 mmol, 1 eq) and piperidine (31 mg, 0.361 mmol, 0.012 eq) were combined in DCM (100 ml) and the reaction mixture heated to reflux over sieves for 18 hours. The sieves were removed by filtration and the reaction mixture diluted with MeOH (50 ml). Sodium borohydride (5.01 g, 132 mmol, 4.4 eq) was added portionwise and the reaction mixture heated to reflux for 1 hour. The mixture was cooled, quenched with water and the organic solvent evaporated in vacuo. The residue was extracted from water into ethyl acetate, dried over sodium sulphate, filtered and evaporated in vacuo. The crude material was triturated with isopropanol to yield the title compound as a cream solid.

reactant | 2,4 Dimethoxybenzaldehyde | 30 mmol, 5 g, 1 eq | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | 2-amino-5-chlorothiazole hydrochloride | 30 mmol, 5.15 g, 1 eq | Cl.NC=1SC(=CN1)Cl
reactant | Et3N | 30 mmol, 3.04 g, 1 eq | CCN(CC)CC | C6H15N
reactant | piperidine | 0.361 mmol, 31 mg, 0.012 eq | N1CCCCC1 | C5H11N
reactant | Sodium borohydride | 132 mmol, 5.01 g, 4.4 eq | [BH4-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine | ClC=1N=C(SC1)NCC1=C(C=C(C=C1)OC)OC | C12H13ClN2O2S
